US05610144
By proceeding in a fashion similar to that described in Example 2, but starting from 2 g of cis-1-(2-aminoacetyl)-2,5-diphenylpyrrolidine and 0.9 cm3 of 3-methylphenyl isocyanate in solution in 25 cm3 of anhydrous tetrahydrofuran, 1.4 g of (2RS,5SR)-1-[2-(2,5-diphenyl-1-pyrrolidinyl)-2-oxoethyl]-3-(3-methylphenyl)urea, melting at 168° C., are obtained after recrystallization in 2-propanol.

reactant | cis-1-(2-aminoacetyl)-2,5-diphenylpyrrolidine | 2 g | NCC(=O)N1[C@H](CC[C@H]1C1=CC=CC=C1)C1=CC=CC=C1 | C18H20N2O
reactant | 3-methylphenyl isocyanate | 0.9 cm3 | CC=1C=C(C=CC1)N=C=O | C8H7NO
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
product | (2RS,5SR)-1-[2-(2,5-diphenyl-1-pyrrolidinyl)-2-oxoethyl]-3-(3-methylphenyl)urea | 1.4 g | C1(=CC=CC=C1)C1N(C(CC1)C1=CC=CC=C1)C(CNC(=O)NC1=CC(=CC=C1)C)=O | C26H27N3O2
